US06982348B2
1,1-dimethylethyl(1RS,2SR)-2-(6-fluoropyridin-3-yl)-2-hydroxy-1-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)ethylcarbamate
To absolution of 1,1-dimethylethyl(4RS,5SR)-5-(6-fluoropyridin-3-yl)-2-oxo-4-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-1,3-oxazolidine-3-carboxylate (2.40 g, 4.91 mmol) in methanol (12 ml) was added a solution of 0.5N sodium hydroxide in methanol (11.8 ml, 5.90 mmol), and the mixture was stirred at room temperature for 10 min. To the reaction solution was added water (50 ml) and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (1.98 g, 87%).

reactant | 1,1-dimethylethyl(4RS,5SR)-5-(6-fluoropyridin-3-yl)-2-oxo-4-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-1,3-oxazolidine-3-carboxylate | 4.91 mmol, 2.40 g | FC1=CC=C(C=N1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C22H21F5N2O5
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 12 ml | CO | CH4O
solvent | methanol | 5.90 mmol, 11.8 ml | CO | CH4O
product | 1,1-dimethylethyl(1RS,2SR)-2-(6-fluoropyridin-3-yl)-2-hydroxy-1-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)ethylcarbamate | 1.98 g, 87% | FC1=CC=C(C=N1)C(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)O | C21H23F5N2O4
